*Circuito t2_2

*Guardar correntes
.options savecurrents

*Resistências
R1 1 2 1.04005394176k;
R2 2 3 2.07146823978k;
R3 2 5 3.06015694112k; terminais fixos
R4 GND 5 4.13750728298k;
R5 5 6 3.13205467735k;
R6 9 7 2.01065636997k; terminais fixos
R7 7 8 1.00318758033k;

*Fontes Independentes
Vs GND 1 0V
V0 GND 9 0V; terminais fixos
Vx 6 8 8.554671V; V(6) - V(8), para manter ddp entre os 2 iguais

*Fontes Dependentes
Hd 5 8 V0 8.3495605781k;
Gb 6 3 (2,5) 7.04881622155m;

.control

*Simulação
op

echo "I_TAB"
print @gb[i]
print @r1[i]
print @r2[i]
print @r3[i]
print @r4[i]
print @r5[i]
print @r6[i]
print @r7[i]
print hd#branch
print vs#branch
print vx#branch
echo "I_END"

echo  "V_TAB"
print V(1)
print V(2)
print V(3)
print V(5)
print V(6)
print V(7)
print V(8)
print V(9)
echo  "V_END"

quit
.endc

.end
